US05576338
2-(tert-Butyldiphenylsiloxy)methyl-6-(4-fluorophenyl)pyridine
A mixture of 2-bromo-6-(tert-butyldiphenylsiloxy)methylpyridine (1 g; WO 94/00444), 4-fluorophenylmagnesium bromide (3.5 mL of a 2M solution in Et2O) and tetrakis (triphenylphosphine) palladium (200 mg) in THF (20 mL) was refluxed for 4 h. To the mixture was added NH4OAc buffer and the mixture was extracted with EtOAc. The organics were dried (MgSO4), concentrated and chromatographed (silica gel; hexane/EtOAc (30:1)) to provide the title compound as an oil.

reactant | 2-bromo-6-(tert-butyldiphenylsiloxy)methylpyridine | 1 g | BrC1=NC(=CC=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C22H24BrNOSi
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
solvent | Et2O | CCOCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | tetrakis (triphenylphosphine) palladium | 200 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(tert-Butyldiphenylsiloxy)methyl-6-(4-fluorophenyl)pyridine | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1=NC(=CC=C1)C1=CC=C(C=C1)F | C28H28FNOSi
